US07625886B2
Ethyl 1′-{(R)-3-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylate
A solution of 300 mg (0.59 mmol) (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 210 mg (0.65 mmol) TBTU and 100 μL (0.72 mmol) triethylamine in 20 mL THF was stirred for 1 h at RT. Then 220 mg (0.70 mmol) ethyl [1,4′]bipiperidinyl-4-carboxylate (used as the bis-hydrochloride salt) and 400 μL (2.87 mmol) triethylamine were added. The reaction mixture was stirred for 24 h at RT. The mixture was diluted with EtOAc, the organic phase was washed with saturated NaHCO3 solution and dried on Na2SO4. After the desiccant and solvent had been eliminated the residue was purified by chromatography (Alox, activity grade II-III, gradient DCM/EtOH 20:1 to DCM/EtOH 10:1). The fractions containing the product were combined, evaporated down i. vac., the residue was triturated with diethyl ether, suction filtered and dried.

reactant | (R)-1-carboxy-2-(4-methyl-2-oxo-2,3-dihydrobenz-oxazol-6-yl)-ethyl 4-(2-oxo-1,2,4,5,-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.59 mmol, 300 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(NC(O3)=O)C(=C1)C)C(=O)O)C=CC=C2 | C26H28N4O7
reactant | TBTU | 0.65 mmol, 210 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.72 mmol, 100 μL | C(C)N(CC)CC | C6H15N
reactant | ethyl [1,4′]bipiperidinyl-4-carboxylate | 0.70 mmol, 220 mg | N1(CCC(CC1)C(=O)OCC)C1CCNCC1 | C13H24N2O2
reactant | triethylamine | 2.87 mmol, 400 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 1′-{(R)-3-(4-methyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-2-[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyloxy]-propionyl}-1,4′-bipiperidinyl-4-carboxylate | CC1=CC(=CC2=C1NC(O2)=O)C[C@H](C(=O)N2CCC(CC2)N2CCC(CC2)C(=O)OCC)OC(=O)N2CCC(CC2)N2C(NC1=C(CC2)C=CC=C1)=O | C39H50N6O8
